US07368578B2
To a mixture of methyl 5-{4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl}-2-methoxybenzoate (0.10 g), tetrahydrofuran (1 mL) and ethanol (1 mL) was added 1N aqueous sodium hydroxide solution (0.5 mL); and the mixture was stirred at 50° C. for 1 hr. To the reaction mixture were added 1N hydrochloric acid (1 mL) and water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 5-{4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl}-2-methoxybenzoic acid as colorless crystals (0.08 g, yield 80%). Recrystallization from acetone-hexane gave colorless prism crystals. melting point: 171-172° C.

reactant | methyl 5-{4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl}-2-methoxybenzoate | 0.10 g | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)OC)C2)OC)C=C1)OC | C37H40N3O10P
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 0.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-{4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl}-2-methoxybenzoic acid | 0.08 g, yield 80% | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)O)C2)OC)C=C1)OC | C36H38N3O10P
